US06352993B1
Step 2: 6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.43 ml, 4.5 mmol) and triethylamine(0.63 ml, 4.5 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.96 g, 3 mmol) in dimethylformamide(5 ml), 600 mg of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 4-fluoroaniline | 4.5 mmol, 0.43 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3 mmol, 0.96 g | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C)C | C17H20ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 600 mg, Yield 47% | Cl.COCC1=C(C(=NC(=N1)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C)C | InChI=1S/C23H25FN4O.ClH/c1-15-21(14-29-3)26-23(25-19-10-8-18(24)9-11-19)27-22(15)28-13-12-17-6-4-5-7-20(17)16(28)2;/h4-11,16H,12-14H2,1-3H3,(H,25,26,27);1H
